// vco_dual.scs — reconfigurable dual-core VCO (paper Fig.12/13), generated
// EN2=0.8: dual-core; EN2=0: core B powered down, coupling off (single-core)
// VDD feeds both cores via MPWRB; COUTP/COUTN are the shorted tank outputs

subckt vco_x (VDD VSS VCTRL OUTP OUTN)

MN1 (OUTP OUTN VSS VSS) nch_svt_mac l=16n nfin=2 w=58n multi=1 nf=16 \
        sd=74n sa=90n sb=90n ploda1=16n ploda2=0 ploda3=0 plodb1=16n \
        plodb2=0 plodb3=0 nf_flag=1 smbt=1M smbb=1M dinsaflag=0 ppitch=0 \
        spot=103n spob=103n spotl1=103n spobl1=103n spotl2=103n \
        spobl2=103n spotr1=103n spobr1=103n spotr2=103n spobr2=103n
MN0 (OUTN OUTP VSS VSS) nch_svt_mac l=16n nfin=2 w=58n multi=1 nf=16 \
        sd=74n sa=90n sb=90n ploda1=16n ploda2=0 ploda3=0 plodb1=16n \
        plodb2=0 plodb3=0 nf_flag=1 smbt=1M smbb=1M dinsaflag=0 ppitch=0 \
        spot=103n spob=103n spotl1=103n spobl1=103n spotl2=103n \
        spobl2=103n spotr1=103n spobr1=103n spotr2=103n spobr2=103n
L1 (VDD OUTN) inductor l=2.49n r=2
L0 (VDD OUTP) inductor l=2.49n r=2
CF11 (net08 OUTN VSS) cfmom_wo_p80 dmflag=0 lr=1u multi=1 mxd_flag=0 \
        nr=192 n_mxa=2 shield=2 spm=3 stm=1 vapmod=2 grflag=1 gdis_t=185n \
        gdis_b=185n gdis_l=102n gdis_r=102n
CF10 (net09 OUTN VSS) cfmom_wo_p80 dmflag=0 lr=1u multi=1 mxd_flag=0 \
        nr=192 n_mxa=2 shield=2 spm=3 stm=1 vapmod=2 grflag=1 gdis_t=185n \
        gdis_b=185n gdis_l=102n gdis_r=102n
CF9 (OUTN OUTN VSS) cfmom_wo_p80 dmflag=0 lr=1u multi=1 mxd_flag=0 nr=192 \
        n_mxa=2 shield=2 spm=3 stm=1 vapmod=2 grflag=1 gdis_t=185n \
        gdis_b=185n gdis_l=102n gdis_r=102n
CF8 (net15 OUTN VSS) cfmom_wo_p80 dmflag=0 lr=1u multi=1 mxd_flag=0 nr=192 \
        n_mxa=2 shield=2 spm=3 stm=1 vapmod=2 grflag=1 gdis_t=185n \
        gdis_b=185n gdis_l=102n gdis_r=102n
CF7 (net16 OUTN VSS) cfmom_wo_p80 dmflag=0 lr=1u multi=1 mxd_flag=0 nr=192 \
        n_mxa=2 shield=2 spm=3 stm=1 vapmod=2 grflag=1 gdis_t=185n \
        gdis_b=185n gdis_l=102n gdis_r=102n
CF6 (OUTP OUTN VSS) cfmom_wo_p80 dmflag=0 lr=1u multi=1 mxd_flag=0 nr=192 \
        n_mxa=2 shield=2 spm=3 stm=1 vapmod=2 grflag=1 gdis_t=185n \
        gdis_b=185n gdis_l=102n gdis_r=102n
CF5 (net8 OUTN VSS) cfmom_wo_p80 dmflag=0 lr=1u multi=1 mxd_flag=0 nr=192 \
        n_mxa=2 shield=2 spm=3 stm=1 vapmod=2 grflag=1 gdis_t=185n \
        gdis_b=185n gdis_l=102n gdis_r=102n
CF4 (net9 OUTN VSS) cfmom_wo_p80 dmflag=0 lr=1u multi=1 mxd_flag=0 nr=192 \
        n_mxa=2 shield=2 spm=3 stm=1 vapmod=2 grflag=1 gdis_t=185n \
        gdis_b=185n gdis_l=102n gdis_r=102n
CF3 (net10 OUTN VSS) cfmom_wo_p80 dmflag=0 lr=1u multi=1 mxd_flag=0 nr=192 \
        n_mxa=2 shield=2 spm=3 stm=1 vapmod=2 grflag=1 gdis_t=185n \
        gdis_b=185n gdis_l=102n gdis_r=102n
CF2 (net11 OUTN VSS) cfmom_wo_p80 dmflag=0 lr=1u multi=1 mxd_flag=0 nr=192 \
        n_mxa=2 shield=2 spm=3 stm=1 vapmod=2 grflag=1 gdis_t=185n \
        gdis_b=185n gdis_l=102n gdis_r=102n
CF1 (net12 OUTN VSS) cfmom_wo_p80 dmflag=0 lr=1u multi=1 mxd_flag=0 nr=192 \
        n_mxa=2 shield=2 spm=3 stm=1 vapmod=2 grflag=1 gdis_t=185n \
        gdis_b=185n gdis_l=102n gdis_r=102n
CF0 (OUTP OUTN VSS) cfmom_wo_p80 dmflag=0 lr=1u multi=1 mxd_flag=0 nr=192 \
        n_mxa=2 shield=2 spm=3 stm=1 vapmod=2 grflag=1 gdis_t=185n \
        gdis_b=185n gdis_l=102n gdis_r=102n
CV1 (VM1 VCTRL VCTRL) moscap_rf wr=538n nfin=12 lr=200n gr=2 br=2 multi=1 \
        sobn=470n sobs=470n sobw=684n sobe=684n
CV0 (VM2 VCTRL VCTRL) moscap_rf wr=538n nfin=12 lr=200n gr=2 br=2 multi=1 \
        sobn=470n sobs=470n sobw=684n sobe=684n
Cs1 (OUTN VM1) capacitor c=150f
Cs0 (OUTP VM2) capacitor c=150f
ends vco_x

